US08084644B2
Ethynyltrimethylsilane (0.93 g) was dissolved to dry THF (30 ml), n-butyl lithium/hexane solution (1.6 mol/1; 5.6 ml) was added dropwise thereto at −78° C., then it was warmed to 0° C. The reaction mixture was cooled to −78° C., THF (5 ml) solution of phenyl isothiocyanate (1.24 g) was added dropwise to the reaction mixture. Then it was gradually warmed to 0° C. After that, THF (5 ml) solution of 2-iodopropane (1.52 g) was added dropwise thereto under ice-cooling, then stirred for 14 hours at room temperature. The reaction solution was concentrated. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate=15/1) to obtain isopropyl N-phenyl-3-(trimethylsilyl)thiopropioimidate (1.7 g).

reactant | Ethynyltrimethylsilane | 0.93 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | n-butyl lithium hexane | 1.6 mol, 5.6 ml | C(CCC)[Li].CCCCCC
reactant | phenyl isothiocyanate | 1.24 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 2-iodopropane | 1.52 g | IC(C)C | C3H7I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | isopropyl N-phenyl-3-(trimethylsilyl)thiopropioimidate | 1.7 g | C1(=CC=CC=C1)N=C(CC[Si](C)(C)C)SC(C)C | C15H25NSSi
